US05047540
A solution of 300 mg (0.464 mM) of 3-(4-iodobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane in 3 ml of thiazole is stirred at 60° C. for 6 hours. After thiazole is evaporated, the residue is washed with ether and recrystallized from ether-dichloromethane to give 140 mg (0.191 mM) of 2-methoxy-1-octadecylcarbamoyloxy-3-(4-thiazoliobutylsulfonylamino)propane iodide Ia13 in 41% yield.

reactant | 3-(4-iodobutylsulfonylamino)-2-methoxy-1-octadecylcarbamoyloxypropane | 0.464 mM, 300 mg | ICCCCS(=O)(=O)NCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC | C27H55IN2O5S
reactant | thiazole | 3 ml | S1C=NC=C1 | C3H3NS
product | 2-methoxy-1-octadecylcarbamoyloxy-3-(4-thiazoliobutylsulfonylamino)propane iodide | 0.191 mM, 140 mg, 41% yield | [I-].COC(COC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCCCC=1SC=C[NH+]1 | InChI=1S/C30H57N3O5S2.HI/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-19-22-32-30(34)38-27-28(37-2)26-33-40(35,36)25-20-18-21-29-31-23-24-39-29;/h23-24,28,33H,3-22,25-27H2,1-2H3,(H,32,34);1H
